US07429665B2
4-(1-Methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenol
To a solution of 4-[3-(4-Benzyloxy-phenyl)-1-methyl-1H-pyrazol-4-yl]-pyridine (1.28 g) in ethanol (50 ml)/ethyl acetate (50 ml) in a parr bottle was added Palladium hydroxide (500 mg). The parr bottle was charged to 40 psi on a shaker for 6 h. The reaction mixture was filtered and concentrated. MPLC biotage chromatography eluting with methanol (1-7%)/chloroform provided the title compound (860 mg, 91%). 1H NMR (400 MHz, DMSO) δ 9.53 (s, 1H), 8.39 (d, J=5.8 Hz, 2 H), 7.15 (m, 4H), 6.72 (d, J=8.7 Hz, 1H), 3.84 (s, 3H); MS: (M+H m/z=252.2).

reactant | 4-[3-(4-Benzyloxy-phenyl)-1-methyl-1H-pyrazol-4-yl]-pyridine | 1.28 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NN(C=C1C1=CC=NC=C1)C | C22H19N3O
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Palladium hydroxide | 500 mg | [OH-].[Pd+2].[OH-]
product | 4-(1-Methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenol | 860 mg, 91% | CN1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(C=C1)O | C15H13N3O
